US06720452B2
To a solution of 2-chloro-5-(2-chloroethylamino)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide (WO 99/29661) (0.2 g) and N,N-diisopropylethylamine (0.27 ml) in ethanol (5 ml) was added sodium iodide (0.08 g) and 2-methoxyethylamine (0.11 g). The reaction vessel was sealed and the reaction mixture heated at 90° C. for 15 h before concentration under reduced pressure. The residue was partitioned between ethyl acetate and sodium hydrogencarbonate solution, and the aqueous phase extracted with additional ethyl acetate. The combined organic phases were dried (MgSO4) and concentrated under reduced pressure. The residue was purified by NPHPLC (eluting with 0-25% ethanol in dichloromethane) to afford 5-(N-(2-methoxyethyl)-2-aminoethyl)amino-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide as a semi-solid. This was converted to the hydrochloride salt by stirring with 4M HCl in dioxane and concentrated under reduced pressure to leave the title compound as a white solid (0.085 g).

reactant | 2-chloro-5-(2-chloroethylamino)-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 0.2 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)NCCCl | C20H26Cl2N2O
reactant | N,N-diisopropylethylamine | 0.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium iodide | 0.08 g | [I-].[Na+]
reactant | 2-methoxyethylamine | 0.11 g | COCCN | C3H9NO
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(N-(2-methoxyethyl)-2-aminoethyl)amino-2-chloro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | COCCNCCNC=1C=CC(=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C1)Cl | C23H34ClN3O2
